US05661160
Synthesis of 3-benzyl-8-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione
Prepare by the method of example 3.3 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (5 mmol) and 3-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride (7.5 mmol, 1.5 eq.). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 3-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride | 7.5 mmol, 1.5 eq. | Cl.C(C1=CC=CC=C1)N1C(N(C2(C1=O)CCNCC2)C2=CC=C(C=C2)F)=O
product | 3-benzyl-8-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione | C(C1=CC=CC=C1)N1C(N(C2(C1=O)CCN(CC2)CCC2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C2=CC(=C(C=C2)Cl)Cl)C2=CC=C(C=C2)F)=O | C42H43Cl2FN4O6
